US08242104B2
Step 2: 2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-9-carboxylic acid
To a solution of 2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-9-carboxylic acid methyl ester (553 mg, 1.4 mmol) in dioxane (12.5 mL) and water (12.5 mL) was added lithium hydroxide (67 mg, 2.8 mmol) and the reaction mixture stirred at RT for 2 h. The reaction mixture was concentrated in vacuo to remove the dioxane and the resultant solution acidified to pH 1 by the addition of HCl (12 N). The precipitate formed was collected by filtration, washed with water and dried in vacuo at 40° C. to give the title compound (519 mg, 98%). LCMS: RT=4.04 min, M+H+=380

reactant | 2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-9-carboxylic acid methyl ester | 1.4 mmol, 553 mg | COC(=O)C=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)CC(F)(F)F)C1 | C17H14F3N5O3
reactant | lithium hydroxide | 2.8 mmol, 67 mg | [OH-].[Li+]
solvent | dioxane | 12.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 12.5 mL | O | H2O
product | 2-[2-(2,2,2-Trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-9-carboxylic acid | 519 mg, 98% | FC(CN1N=CN=C1C=1C=C2CCOC3=C(N2N1)C=C(C=C3)C(=O)O)(F)F | C16H12F3N5O3
